US03935209
A solution of 9.6 g. of 1-acetamido-2-nitro-4-thiocyanatobenzene in 60 ml. dimethylformamide is treated, under nitrogen, with 1.52 g. sodium borohydride at less than 25°C. The mixture is stirred for 1 hour at 20°-25°C., then 15 ml. of acetone is added and stirring continued for 2 hours. 2.5 G. of 57% sodium hydride in oil suspension is added at 20°-30°C., followed by 11.7 g. of 4-bromopyridine hydrochloride. The mixture is warmed slowly and kept at 120°-130°C. for several hours, then cooled and diluted with water, and extracted with chloroform. The chloroform solution is treated with charcoal, stripped and the residue recrystallized from methanol and washed with pentene affording 1-acetamido-2-nitro-4-(pyrid-4-ylthio)benzene.

reactant | 1-acetamido-2-nitro-4-thiocyanatobenzene | C(C)(=O)NC1=C(C=C(C=C1)SC#N)[N+](=O)[O-] | C9H7N3O3S
reactant | sodium borohydride | [BH4-].[Na+]
reactant | sodium hydride | [H-].[Na+]
reactant | 4-bromopyridine hydrochloride | Cl.BrC1=CC=NC=C1
solvent | water | O | H2O
solvent | acetone | CC(=O)C | C3H6O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 1-acetamido-2-nitro-4-(pyrid-4-ylthio)benzene | C(C)(=O)NC1=C(C=C(C=C1)SC1=CC=NC=C1)[N+](=O)[O-] | C13H11N3O3S
